US08440710B2
Step 2: 6-((S)-2,2,2-Trifluoro-1-methyl-ethoxy)-pyridin-3-ylamine
5-Nitro-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-pyridine (81.9 g) and palladium on carbon (10% Pd, 0.0065 mol-eq) were added to MeOH and the mixture was hydrogenated until uptake of hydrogen was ceasing. The catalyst was removed by filtration and the filtrate was concentrated and further dried in vacuo to provide the title compound as a dark oil. MS (m/e): 207.0 (MH+).

reactant | 5-Nitro-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-pyridine | 81.9 g | [N+](=O)([O-])C=1C=CC(=NC1)O[C@H](C(F)(F)F)C | C8H7F3N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.0065 mol | [Pd] | Pd
solvent | MeOH | CO | CH4O
product | 6-((S)-2,2,2-Trifluoro-1-methyl-ethoxy)-pyridin-3-ylamine | FC([C@@H](OC1=CC=C(C=N1)N)C)(F)F | C8H9F3N2O
